US07645789B2
To a solution of tert-butyl-(4-nitro-2-trimethylsilanylethynyl-phenyl)-amine (10 mg, 0.035 mmol) in DMF (2 mL), was added CuI (13 mg, 0.07 mmol) under N2 protection. The reaction mixture was stirred at 100° C. overnight. At this time, EtOAc (4 mL) was added to the mixture. The mixture was filtered and the filtrate was washed with water, brine, dried over Na2SO4 and concentrated under vacuum to obtain 1-tert-butyl-5-nitro-1H-indole (7 mg, 93%). 1H-NMR (CDCl3, 300 MHz) δ 8.57 (d, J=2.1 Hz, 1H), 8.06 (dd, J=2.4, 9.3 Hz, 1H), 7.65 (d, J=9.3 Hz, 1H), 7.43 (d, J=3.3 Hz, 1H), 6.63 (d, J=3.3 Hz, 1H), 1.76 (s, 9H).

reactant | tert-butyl-(4-nitro-2-trimethylsilanylethynyl-phenyl)-amine | 0.035 mmol, 10 mg | C(C)(C)(C)NC1=C(C=C(C=C1)[N+](=O)[O-])C#C[Si](C)(C)C | C15H22N2O2Si
reactant | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.07 mmol, 13 mg | [Cu]I
product | 1-tert-butyl-5-nitro-1H-indole | 7 mg, 93% | C(C)(C)(C)N1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C12H14N2O2
